US04267176
To a solution of thiophenol (2.55 g) in N,N-dimethylformamide (20 ml) was added 50% sodium hydride (1.1 g) under cooling in an ice bath and the mixture was stirred for 20 minutes at 0° C. to 5° C. To the mixture was added ethyl 2-(4-amino-6-chloropyrimidin-2-yl)-2-methoxyiminoacetate (2.0 g) and the mixture was stirred for 6 hours at ambient temperature. The resultant mixture was poured into cold water, adjusted to pH7 with diluted hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was subjected to column chromatography on silica gel (50 g) using a mixture of chloroform and ethyl acetate (3:1 by valume) as an eluent. The fractions containing the object product were collected and evaporated to give ethyl 2-(4-amino-6-phenylthiopyrimidin-2-yl)-2-methoxyiminoacetate (syn isomer) (460 mg), mp 154°-156° C.

reactant | thiophenol | 2.55 g | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | ethyl 2-(4-amino-6-chloropyrimidin-2-yl)-2-methoxyiminoacetate | 2.0 g | NC1=NC(=NC(=C1)Cl)C(C(=O)OCC)=NOC | C9H11ClN4O3
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 2-(4-amino-6-phenylthiopyrimidin-2-yl)-2-methoxyiminoacetate | 460 mg | NC1=NC(=NC(=C1)SC1=CC=CC=C1)C(C(=O)OCC)=NOC | C15H16N4O3S
